US04935413
Dimethylaminoethanol (0.89 g; 10 mmol) was dissolved in dry chloroform (20 ml) under ice-cooling, and a solution of methacryloyl isocyanate (1.11 g; 10 mmol) in 1,2-dichloroethane (5 ml) was dropwise added thereto under nitrogen stream. After completion of the addition, chloroform and 1,2-dichloroethane were evaporated under reduced pressure to give dimethylaminoethyl N-methacryloylcarbamate (2.00 g), which was recrystallized from a mixture of benzene and hexane to give colorless needle-like crystals. M.P., 71°-73° C.

reactant | Dimethylaminoethanol | 10 mmol, 0.89 g | CN(C)CCO | C4H11NO
reactant | methacryloyl isocyanate | 10 mmol, 1.11 g | C(C(=C)C)(=O)N=C=O | C5H5NO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | dimethylaminoethyl N-methacryloylcarbamate | 2.00 g | C(C(=C)C)(=O)NC(OCCN(C)C)=O | C9H16N2O3
